US06090571
d. Phenyl 2,7-difluoroacridine-9-thiocarboxylate
2,7-Difluoroacridine-9-carboxylic acid (1.0 g) was suspended in SOCl2 (5 mL) and the reaction mixture was refluxed for 3 h. The solvent was removed under reduced pressure leaving a brown solid which was dissolved in 20 mL of CH2Cl2 under argon. Thiophenol (468 mg) was added followed by pyridine (2 mL). The reaction mixture was stirred overnight at room temperature. The reaction mixture was diluted with CH2Cl2 and washed with water (3×50 mL). The organic layer was dried over MgSO4 and concentrated to obtain a crude material which was chromatographed on silica gel (40% ethyl acetate/hexane) to yield 1.2 g of the pure product. 1H NMR (CDCl3) δ7.52-7.75 (m, 9H), 8.26-8.30 (m, 2H).

reactant | 2,7-Difluoroacridine-9-carboxylic acid | 1.0 g | FC1=CC2=C(C3=CC(=CC=C3N=C2C=C1)F)C(=O)O | C14H7F2NO2
reactant | Thiophenol | 468 mg | C1(=CC=CC=C1)S | C6H6S
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Phenyl 2,7-difluoroacridine-9-thiocarboxylate | 1.2 g | FC1=CC2=C(C3=CC(=CC=C3N=C2C=C1)F)C(OC1=CC=CC=C1)=S | C20H11F2NOS
